US04569801
A 300 ml round bottom flask fitted with a calcium sulfate drying tube was charged with 6.681 g (0.0322 mol) of 5-(4-nitrophenyl)-2-pentanone in 100 ml of methanol. This mixture was charged with 13.2 g (0.161 mol) of ethylamine hydrochloride and 2.03 g (0.0322 mol) of sodium cyanoborohydride. The resulting suspension was stirred at room temperature over the weekend (about 72 hours) and acidified with concentrated hydrochloric acid. The volatiles were evaporated under reduced pressure and 300 ml of water was added to the residue. The mixture was extracted twice with diethyl ether and the organic phase was washed with water and a saturated sodium chloride solution. The organic phase was dried over anhydrous sodium sulfate and evaporated to dryness. This material was discarded. The aqueous phase was basified with 5N sodium hydroxide and extracted three times with diethyl ether. The organic extracts were combined, washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. Evaporation of the solvent afforded 6.838 g of N-ethyl-α-methyl-4-nitrobenzenebutanamine.

reactant | 5-(4-nitrophenyl)-2-pentanone | 0.0322 mol, 6.681 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(C)=O | C11H13NO3
reactant | ethylamine hydrochloride | 0.161 mol, 13.2 g | Cl.C(C)N
reactant | sodium cyanoborohydride | 0.0322 mol, 2.03 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | N-ethyl-α-methyl-4-nitrobenzenebutanamine | 6.838 g | C(C)NC(CCCC1=CC=C(C=C1)[N+](=O)[O-])C | C13H20N2O2
